US07208527B2
2-[Bis-(4-fluoro-phenyl)-(2-fluoro-phenyl)-methylsulfanyl]-thioacetamide (Compound 5-21)
A solution of 2-[bis-(4-fluoro-phenyl)-(2-fluoro-phenyl)-methylsulfanyl]-acetamide (0.5 g) in toluene (20 ml) was treated with Lawesson's reagent (0.26 g) at room temperature under Argon and stirred for 1.5 hours at 80° C. After pouring into saturated brine the organics were extracted with dichloromethane (3×). Drying of the combined organic extracts (Na2SO4), filtration, concentration and flash-chromatography of the residue gave the title compound (42%; Isolated as an oil).

reactant | 2-[bis-(4-fluoro-phenyl)-(2-fluoro-phenyl)-methylsulfanyl]-acetamide | 0.5 g | FC1=CC=C(C=C1)S(CC(=O)N)(C)(C1=C(C=CC=C1)F)C1=CC=C(C=C1)F | C21H20F3NOS
reactant | Lawesson's reagent | 0.26 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | brine | [Cl-].[Na+].O
product | 2-[Bis-(4-fluoro-phenyl)-(2-fluoro-phenyl)-methylsulfanyl]-thioacetamide | FC1=CC=C(C=C1)S(CC(=S)N)(C)(C1=C(C=CC=C1)F)C1=CC=C(C=C1)F | C21H20F3NS2
